US08357705B2
2-(4-(dimethylamino)-4-phenylcyclohexylamino)-3-(1H-indol-3-yl)propanamide dihydrochloride (polar and non-polar diastereomer)
D,L-tryptophanamide hydrochloride (1.49 g, 6.25 mmol) was vigorously stirred with 1,2-dichloroethane (30 ml), tetrahydrofuran (20 ml) and saturated NaHCO3 solution (40 ml) for 15 min and the aqueous phase was then immediately extracted with a tetrahydrofuran/ethyl acetate mixture (1:3.5×40 ml). After drying with Na2SO4 the organic phase was concentrated to low volume. The released base (1.03 g, 5.06 mmol) and 4-(dimethylamino)-4-phenylcyclohexanone (1.09 g, 5.06 mmol) were dissolved in tetrahydrofuran (40 ml) and 1,2-dichloroethane (30 ml) in argon. Glacial acetic acid (0.291 ml, 5.06 mmol) and Na2SO4 (2.53 g) were added to the clear solution. After a reaction time of 15 min the reaction mixture was mixed with NaBH(OAc)3 (1.52 g, 7.08 mmol) and stirred for 2 d at room temperature. For work up of the batch the mixture was mixed with saturated NaHCO3 solution (60 ml) and stirred for 15 min. The aqueous phase was extracted with dichloromethane (2×40 ml). The combined organic phases were concentrated to low volume after drying, and a light brown oil was obtained. The chromatographic separation of the substance mixture on silica gel 60 (150 g) was conducted with ethyl acetate/methanol (1:1).

reactant | D,L-tryptophanamide hydrochloride | 6.25 mmol, 1.49 g | Cl.NC(CC1=CNC2=CC=CC=C12)C(=O)N
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
reactant | 4-(dimethylamino)-4-phenylcyclohexanone | 5.06 mmol, 1.09 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | acetic acid | 5.06 mmol, 0.291 ml | C(C)(=O)O | C2H4O2
reactant | Na2SO4 | 2.53 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH(OAc)3 | 7.08 mmol, 1.52 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 60 ml | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 2-(4-(dimethylamino)-4-phenylcyclohexylamino)-3-(1H-indol-3-yl)propanamide dihydrochloride | Cl.Cl.CN(C1(CCC(CC1)NC(C(=O)N)CC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | InChI=1S/C25H32N4O.2ClH/c1-29(2)25(19-8-4-3-5-9-19)14-12-20(13-15-25)28-23(24(26)30)16-18-17-27-22-11-7-6-10-21(18)22;;/h3-11,17,20,23,27-28H,12-16H2,1-2H3,(H2,26,30);2*1H
